US08124639B2
To a stirring solution of 6-[(3-Trifluoromethoxy-benzylamino)-methyl]-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester prepared above (5.9 gm, 15.4 mmol) in 192 mL of CH3CN at room temperature under N2 was added DIEA (8.0 mL, 46.1 mmol) and 1-Methyl-1H-imidazole-4-carbonyl chloride HCL (5.6 gm, 30.7 mmol). After 24 hours, reaction was quenched with H2O, extracted with EtOAc. Organic layer was then washed with a 10% Citric acid solution, H2O, NaHCO3, and brine. The combined extracts were dried over anhydrous MgSO4, filtered and concentrated under reduced pressure, to yield 6.7 gm of 6-{[(1-Methyl-1H-imidazole-4-carbonyl)-(3-trifluoromethoxy-benzyl)-amino]-methyl}-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester 400 MHz 1H NMR (CDCl3) δ 7.8 (d, J=1.2 Hz, 1H), 7.3-7.1 (m, 5H), 5.4 (s, 1H), 4.8-4.7 (m, 1H), 4.2 (m, 1H), 3.7 (s, 1H), 3.7 (s, 3H), 3.4-3.2 (m, 3H), 1.4 (s, 9H), 1.3 (m, 2H), 0.8 (m, 1H); MS (M+1) 495.3.

reactant | 6-[(3-Trifluoromethoxy-benzylamino)-methyl]-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2C(C2C1)CNCC1=CC(=CC=C1)OC(F)(F)F | C19H25F3N2O3
reactant | DIEA | 46.1 mmol, 8.0 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-Methyl-1H-imidazole-4-carbonyl chloride HCL | 30.7 mmol, 5.6 gm | Cl.CN1C=NC(=C1)C(=O)Cl
solvent | CH3CN | 192 mL | CC#N | C2H3N
product | 6-{[(1-Methyl-1H-imidazole-4-carbonyl)-(3-trifluoromethoxy-benzyl)-amino]-methyl}-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester | 6.7 gm | C(C)(C)(C)OC(=O)N1CC2C(C2C1)CN(CC1=CC(=CC=C1)OC(F)(F)F)C(=O)C=1N=CN(C1)C | C24H29F3N4O4
